US07205297B2
4-Chloro-5-(4-chlorophenylethynyl)-2-dimethylaminomethyleneaminopyrimidine (65.1 g), isopropanol (585 mL), and water (36 mL) were combined and warmed to 60° C. Methane sulfonic acid (23.1 g) was added and heating at 60oC was continued for 1.5–2.0 hours or until HPLC analysis confirmed the absence of the starting material. The mixture was cooled to ambient temperature and held for 1.5 hours. The solids were removed by filtration and washed with isopropanol (100 mL). The filter cake was slurried in water (500 mL), basified with 1 N NaOH to pH 11, filtered, and the solids were rinsed with water. Vacuum drying at 50° C. provided predominantly 4-chloro-5-(4-chlorophenylethynyl)-2-formamidopyrimidine: 51.6 g.

reactant | 4-Chloro-5-(4-chlorophenylethynyl)-2-dimethylaminomethyleneaminopyrimidine | 65.1 g | ClC1=NC(=NC=C1C#CC1=CC=C(C=C1)Cl)N=CN(C)C | C15H12Cl2N4
reactant | isopropanol | 585 mL | C(C)(C)O | C3H8O
reactant | Methane sulfonic acid | 23.1 g | CS(=O)(=O)O | CH4O3S
solvent | water | 36 mL | O | H2O
product | 4-chloro-5-(4-chlorophenylethynyl)-2-formamidopyrimidine | ClC1=NC(=NC=C1C#CC1=CC=C(C=C1)Cl)NC=O | C13H7Cl2N3O
